US09145414B2
Copper oxide (I) (2.7 g), NMP (150 mL), and concentrated aqueous ammonia (150 mL) were added to 5-bromo-2-(tert-butyl)-7-methyl-2H-indazole obtained in the above-described Step 1 (40.3 g). The reaction solution was stirred in a portable reactor at 95° C. for 10 hours. The reaction solution was cooled to room temperature, and ethyl acetate (500 mL), hexane (200 mL), and water (300 mL) were added. After separation, the organic layer was washed successively with water four times and then with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum to obtain 2-(tert-butyl)-7-methyl-2H-indazol-5-amine as a purple solid.

reactant | NMP | 150 mL | CN1CCCC1=O | C5H9NO
reactant | ammonia | 150 mL | N | H3N
reactant | 5-bromo-2-(tert-butyl)-7-methyl-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)C(C)(C)C | C12H15BrN2
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 2.7 g | [Cu](I)I
solvent | water | 300 mL | O | H2O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 2-(tert-butyl)-7-methyl-2H-indazol-5-amine | C(C)(C)(C)N1N=C2C(=CC(=CC2=C1)N)C | C12H17N3
